datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"Brc1ccc(C2SCC[NH:10]2)cc1.CCC(=O)C(CC[N+:21]1([H:20])CCOCC1)(c1ccccc1)c1ccccc1>>Brc1ccc(C2SCC[NH+:10]2[H:20])cc1.CCC(=O)C(CC[N:21]1CCOCC1)(c1ccccc1)c1ccccc1 10=20;20,21=21",
"CC(=O)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].CCCCCC[NH2:10]>>CC(=O)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.CCCCCC[NH2+:10][H:20] 10=20;20,21=21",
"Cc1cc(CO)c([O:21][H:20])c(CO)c1.O=C1Nc2c(ncn2[C@H]2O[C@@H](CO)[C@H](O)[C@@H]2O)C(=O)[N-:10]1>>Cc1cc(CO)c([O-:21])c(CO)c1.O=C1Nc2c(ncn2[C@H]2O[C@@H](CO)[C@H](O)[C@@H]2O)C(=O)[N:10]1[H:20] 10=20;20,21=21",
"O=C1SC2=C(C=CC=C2)[CH:21]1[H:20].c1ccc(CCCCC[NH2:10])cc1>>O=C1SC2=C(C=CC=C2)[CH-:21]1.c1ccc(CCCCC[NH2+:10][H:20])cc1 10=20;20,21=21",
"CC[NH+]1CCCC1CNC(=O)c1c(OC)c(Br)cc(Br)c1[O-:10].Cc1ccc(C2CCC[NH+]2C)c[n+:21]1[H:20]>>CC[NH+]1CCCC1CNC(=O)c1c(OC)c(Br)cc(Br)c1[O:10][H:20].Cc1ccc(C2CCC[NH+]2C)c[n:21]1 10=20;20,21=21",
"CC(=O)NS(=O)(=O)c1ccccc1C(=O)[O:21][H:20].CC(=O)c1cc(C)c(C)cc1[O-:10]>>CC(=O)NS(=O)(=O)c1ccccc1C(=O)[O-:21].CC(=O)c1cc(C)c(C)cc1[O:10][H:20] 10=20;20,21=21",
"[NH3+]C1CO[N-:10]C1=O.c1ccc(CC2=[N+:21]([H:20])CCC2)cc1>>[NH3+]C1CO[N:10]([H:20])C1=O.c1ccc(CC2=[N:21]CCC2)cc1 10=20;20,21=21",
"CC(=O)[C@H]1CC=CC[C@@H]1C(=O)[O-:10].CCCCCCCC[N+:21](CC(C)O)(CC(C)O)[H:20]>>CC(=O)[C@H]1CC=CC[C@@H]1C(=O)[O:10][H:20].CCCCCCCC[N:21](CC(C)O)CC(C)O 10=20;20,21=21",
"Cc1nc2c[n+:21]([H:20])c(C)nc2nc1C.OCC[NH2:10]>>Cc1nc2c[n:21]c(C)nc2nc1C.OCC[NH2+:10][H:20] 10=20;20,21=21",
"N#Cc1ccc(S(=O)(=O)[N-:10]Cc2ccccc2)cc1.[O-]c1ccccc1C1=[N+:21]([H:20])CCN1>>N#Cc1ccc(S(=O)(=O)[N:10](Cc2ccccc2)[H:20])cc1.[O-]c1ccccc1C1=[N:21]CCN1 10=20;20,21=21",
"CCCCCCCCCCCCCCCCC[NH2:10].O=C1SC2=C(C=CC=C2)[CH:21]1[H:20]>>CCCCCCCCCCCCCCCCC[NH2+:10][H:20].O=C1SC2=C(C=CC=C2)[CH-:21]1 10=20;20,21=21",
"CCCc1[nH]cc[n:10]1.O=Cc1ccccc1[O:21][H:20]>>CCCc1[nH]cc[n+:10]1[H:20].O=Cc1ccccc1[O-:21] 10=20;20,21=21",
"[NH3+]CCC(=O)NCCc1c[nH]c[n:10]1.c1ccc(S/C(c2ccccc2)=[NH+:21]/[H:20])cc1>>[NH3+]CCC(=O)NCCc1c[nH]c[n+:10]1[H:20].c1ccc(SC(c2ccccc2)=[NH:21])cc1 10=20;20,21=21",
"NS(=O)(=O)c1cccc([NH2+:21][H:20])c1.Oc1cc2ccccc2[n:10]c1>>NS(=O)(=O)c1cccc([NH2:21])c1.Oc1cc2ccccc2[n+:10]([H:20])c1 10=20;20,21=21",
"CCOC(=O)COc1ccc(Cc2ccc([O:21][H:20])c(C[NH3+])c2)c(Cl)c1Cl.C[n+]1ccc(N)[n:10]c1[O-]>>CCOC(=O)COc1ccc(Cc2ccc([O-:21])c(C[NH3+])c2)c(Cl)c1Cl.C[n+]1ccc(N)[n+:10]([H:20])c1[O-] 10=20;20,21=21",
"CCCNCC[NH:10]CCC.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CCCNCC[NH+:10](CCC)[H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"C1C[NH2+]C[NH:10]C1.O=[N+]([O-])c1cccc(O)c1[O:21][H:20]>>C1C[NH2+]C[NH+:10]([H:20])C1.O=[N+]([O-])c1cccc(O)c1[O-:21] 10=20;20,21=21",
"Cc1ccc([N+](=O)[O-])cc1/C(=N/CCC[N+:21](C)(C)[H:20])c1ccccc1.O=S(Cc1ccccc1)c1ncn[n-:10]1>>Cc1ccc([N+](=O)[O-])cc1/C(=N/CCC[N:21](C)C)c1ccccc1.O=S(Cc1ccccc1)c1ncn[n:10]1[H:20] 10=20;20,21=21",
"N#C[CH:21](C1=C([N+](=O)[O-])C=C([N+](=O)[O-])C=C1)[H:20].O=C([O-])[C@@H]1C[C@@H](O)C[NH:10]1>>N#C[CH-:21]C1=C([N+](=O)[O-])C=C([N+](=O)[O-])C=C1.O=C([O-])[C@@H]1C[C@@H](O)C[NH+:10]1[H:20] 10=20;20,21=21",
"C1CCC2C[NH:10]CCC2C1.O=C1OC2=C(C=CC=C2)[CH:21]1[H:20]>>C1CCC2C[NH+:10]([H:20])CCC2C1.O=C1OC2=C(C=CC=C2)[CH-:21]1 10=20;20,21=21",
"C=CC(CC(C)(C)CC(C)(C)C)c1ccc2cccnc2c1[O-:10].C[n+]1c([O-])c([O-])[n+:21]([H:20])c2ccccc21>>C=CC(CC(C)(C)CC(C)(C)C)c1ccc2cccnc2c1[O:10][H:20].C[n+]1c([O-])c([O-])[n:21]c2ccccc21 10=20;20,21=21",
"CCCCCCCCCCCCCC[NH2:10].COc1cccc(OC)c1-c1[nH]c2cccnc2[n+:21]1[H:20]>>CCCCCCCCCCCCCC[NH2+:10][H:20].COc1cccc(OC)c1-c1[nH]c2cccnc2[n:21]1 10=20;20,21=21",
"C=CCc1ccccc1OCC(O)C[NH:10]C(C)C.Cc1ccc2ccccc2[n+:21]1[H:20]>>C=CCc1ccccc1OCC(O)C[NH+:10](C(C)C)[H:20].Cc1ccc2ccccc2[n:21]1 10=20;20,21=21",
"CS(=O)(=O)[NH:21][H:20].Cc1c[n:10]c2c(cc(C)c3c(C)ccnc32)c1C>>CS(=O)(=O)[NH-:21].Cc1c[n+:10]([H:20])c2c(cc(C)c3c(C)ccnc32)c1C 10=20;20,21=21",
"C=C(C)C(=O)OCCC[NH2:10].CC(=O)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20]>>C=C(C)C(=O)OCCC[NH2+:10][H:20].CC(=O)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 10=20;20,21=21",
"N#C[CH:21](C1=C([N+](=O)[O-])C=C([N+](=O)[O-])C=C1)[H:20].NCCCC[NH:10]CCCN>>N#C[CH-:21]C1=C([N+](=O)[O-])C=C([N+](=O)[O-])C=C1.NCCCC[NH+:10](CCCN)[H:20] 10=20;20,21=21",
"Cc1ccccc1/C(=N/CCC[N:10](C)C)c1ccccc1.O=C([O-])[C@@H]1O[C@@H]1C(=O)[O:21][H:20]>>Cc1ccccc1/C(=N/CCC[N+:10](C)(C)[H:20])c1ccccc1.O=C([O-])[C@@H]1O[C@@H]1C(=O)[O-:21] 10=20;20,21=21",
"CC[NH+](CC)CCNc1nc(Nc2ccc(Cl)cc2)cc(C)[n:10]1.C[Si](C)(C)CCC[NH2+:21][H:20]>>CC[NH+](CC)CCNc1nc(Nc2ccc(Cl)cc2)cc(C)[n+:10]1[H:20].C[Si](C)(C)CCC[NH2:21] 10=20;20,21=21",
"C[C@]12Oc3c(O)ccc4c3[C@]13CC[N+:21](C)([H:20])[C@@H](C4)[C@H]3CCC2=O.Nc1ccc2cc3c4ccccc4ccc3[n:10]c2c1>>C[C@]12Oc3c(O)ccc4c3[C@]13CC[N:21](C)[C@@H](C4)[C@H]3CCC2=O.Nc1ccc2cc3c4ccccc4ccc3[n+:10]([H:20])c2c1 10=20;20,21=21",
"CC(=O)[C@H]1C[C@@H](CC(=O)[O-:10])C1(C)C.OCCn1c[n+:21]([H:20])c2ccccc21>>CC(=O)[C@H]1C[C@@H](CC(=O)[O:10][H:20])C1(C)C.OCCn1c[n:21]c2ccccc21 10=20;20,21=21",
"CC(C)[NH:10]CC(=O)[O-].O=C([O-])C[S:21][H:20]>>CC(C)[NH+:10](CC(=O)[O-])[H:20].O=C([O-])C[S-:21] 10=20;20,21=21",
